US20010046991A1
0.202 g (1.0 mmol) of 1-bromo-4-nitrobenzene and 0.20 ml of piperidine (2.0 mmol) were dissolved in 3 ml of dimethylsulfoxide. 0.207 g (1.5 mmol) of potassium carbonate was added and the reaction mixture was heated to 100° C. After 2 h 100 ml of water was added, and the mixture was extracted a few times with dichloromethane. The combined organic layers were dried over sodium sulfate and evaporated to obtain crude 4-(piperidin-1-yl)-1-nitrobenzene. Following the procedure outlined in Step 2 of Example 1, but substituting 4-piperidin-1-yl-1-nitrobenzene for 1-methyl-4-(4-nitrophenyl)piperazine, afforded 4-piperidin-1-ylaniline, which was reacted with 9-chloroacridine (according to Step 4 in the procedure of Example 1) to obtain the title compound with 6% overall yield.

reactant | 1-bromo-4-nitrobenzene | 1.0 mmol, 0.202 g | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | piperidine | 2.0 mmol, 0.20 ml | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 1.5 mmol, 0.207 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
product | 4-(piperidin-1-yl)-1-nitrobenzene | N1(CCCCC1)C1=CC=C(C=C1)[N+](=O)[O-] | C11H14N2O2
